*ZETEX  BS170 Mosfet Spice Subcircuit  Nodes D G S   Last revision  12/85
*ZETEX  60V 270mA pkg:TO-92
.SUBCKT BS170 3 4 5
M1 3 2 5 5 N3306M L=1 W=1
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS BS170
